US07262185B2
To a mixed solution of 4-aminothiophenol (600 mg) and sodium hydroxide (276 mg) in methanol (10 ml) and water (6 ml), a solution of 5-bromomethyl isoxazole (932 mg) in methanol (5 ml) was added at 0° C. Water was added to the mixture and the mixture was extracted with ethyl acetate. The organic layer was washed with saturated brine, and dried over magnesium sulfate. The solvent was distilled off under reduced pressure, to give 4-[(isoxazol-5-ylmethyl)sulfanyl]aniline (988 mg) as oil.

reactant | 4-aminothiophenol | 600 mg | NC1=CC=C(C=C1)S | C6H7NS
reactant | sodium hydroxide | 276 mg | [OH-].[Na+]
reactant | 5-bromomethyl isoxazole | 932 mg | BrCC1=CC=NO1 | C4H4BrNO
solvent | methanol | 10 ml | CO | CH4O
solvent | water | 6 ml | O | H2O
solvent | methanol | 5 ml | CO | CH4O
product | 4-[(isoxazol-5-ylmethyl)sulfanyl]aniline | 988 mg | O1N=CC=C1CSC1=CC=C(N)C=C1 | C10H10N2OS
